US06462035B1
C) 4-Methoxytricyclo[7.2.1.02,7]dodeca-2(7),3,5,10-tetraene
Trifluoro-methanesulfonic acid 2-cyclopent-3-enylmethyl-5-methoxy-phenyl ester (2.00 g, 5.95 mmol) was dissolved in DMF (10 mL) under a N2 atmosphere and treated with triethylamine (0.91 g, 8.92 mmol) and 1,3-bis(diphenylphosphino)propane (0.37 g, 0.89 mmol). This mixture was stirred and degassed (3 vacuum/N2 purge cycles), and then treated with palladium acetate (93 mg, 0.42 mmol). After stirring for 20 min. the mixture was warmed to 100° C. for 18 hours, cooled and poured into brine (30 mL). The resulting mixture was extracted with EtOAc (4×10 mL) and the combined organic layer was washed with sat. aq. NaHCO3 soln. (10 mL), H2O (10 mL), brine (10 mL), dried (MgSO4), filtered and evaporated to an oil. The oil was chromatographed on Silica gel (2%CH2Cl2/hexanes) to provide product as an oil (1.05 g, 95%). (TLC 10%EtOAc/hexanes Rf 0.52). 1H NMR (CDCl3) δ6.94 (d, J=8.0 Hz, 1H), 6.68 (dd, J=8.0,2.8 Hz, 1H), 6.59 (d, J=2.8 Hz, 1H), 6.23 (dd, J=5.5,2.8 Hz,1H), 5.79 (dd, J=5.5,2.6 Hz, 1H), 3.77 (s, 3H), 3.28 (m, 1H), 2.96-2,89 (m, 2H), 2.49 (d, J=15.5 Hz, 1H), 2.19 (m, 1H), 1.85 (d, J=10.5 Hz, 1H). 13C NMR (CDCl3) 156.94, 144.07, 138.95, 131.24, 131.21, 126.34, 111.73, 111.45, 55.22, 45.10, 40.18, 38.47, 29.49. GCMS m/e 186 (M+).

reactant | Trifluoro-methanesulfonic acid 2-cyclopent-3-enylmethyl-5-methoxy-phenyl ester | 5.95 mmol, 2.00 g | C1(CC=CC1)CC1=C(C=C(C=C1)OC)OS(=O)(=O)C(F)(F)F | C14H15F3O4S
reactant | triethylamine | 8.92 mmol, 0.91 g | C(C)N(CC)CC | C6H15N
reactant | 1,3-bis(diphenylphosphino)propane | 0.89 mmol, 0.37 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | brine | 30 mL | [Cl-].[Na+].O
catalyst | palladium acetate | 0.42 mmol, 93 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-Methoxytricyclo[7.2.1.02,7]dodeca-2(7),3,5,10-tetraene | 1.05 g, 95% | COC1=CC=2C3C=CC(CC2C=C1)C3 | C13H14O
